US05641430
Preparation of trans-4-(trans-4-(4-trifluoromethylphenyloxymethyl)cyclohexyl)-1-(5-methoxypentyl)-4-silacyclohexane
The general procedure of Example 39 was repeated using 4-trifluoromethylphenol and 4-(trans-4-bromomethylcyclohexyl)-4-phenyl-1-(5-methoxypentyl)-4-silacyclohexane, thereby obtaining the intended product.

reactant | 4-trifluoromethylphenol | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | 4-(trans-4-bromomethylcyclohexyl)-4-phenyl-1-(5-methoxypentyl)-4-silacyclohexane | BrC[C@@H]1CC[C@H](CC1)[Si]1(CCC(CC1)CCCCCOC)C1=CC=CC=C1 | C24H39BrOSi
product | trans-4-(trans-4-(4-trifluoromethylphenyloxymethyl)cyclohexyl)-1-(5-methoxypentyl)-4-silacyclohexane | FC(C1=CC=C(C=C1)OC[C@@H]1CC[C@H](CC1)[Si@@H]1CC[C@H](CC1)CCCCCOC)(F)F | C25H39F3O2Si
